US20010027196A1
To a stirred solution of 3.0 g (17.1 mmol) 3-(dimethylamino)acrylophenone and 10.2 g (56.5 mmol) guanidine carbonate in 50 ml methanol was added 21.2 ml (114 mmol) sodium methylate (5.4M in methanol) and the mixture heated at reflux for 3 hours. The reaction mixture was then concentrated in vacuo. On addition of 50 ml water, a precipitate appeared which was collected by filtration and washed sequentially with water and ether to afford 2.4 g (82%) 2-amino-4-phenylpyrimidine as a crystalline solid. EI-MS m/e (%): 171 (M+, 100), 170 ([M—H]+, 94).

reactant | 3-(dimethylamino)acrylophenone | 17.1 mmol, 3.0 g | CN(C=CC(=O)C1=CC=CC=C1)C | C11H13NO
reactant | guanidine carbonate | 56.5 mmol, 10.2 g | C(O)(O)=O.NC(=N)N
reactant | sodium methylate | 114 mmol, 5.4M, 21.2 ml | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-amino-4-phenylpyrimidine | 2.4 g, 82% | NC1=NC=CC(=N1)C1=CC=CC=C1 | C10H9N3
